US05344843
Preparation of 4-[2-[4-(1,1-dimethylethyl)phenyl-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester
A mixture of sodium hydride (55%; 0.224 g) and 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.918 g) in dimethylformamide (12 mL) were stirred at room temperature for 30 minutes and then 2-chloro-1-[4-(1,1-dimethylethyl)phenyl]ethanone (1 g) in dimethylformamide (6 mL) was added. The reaction mixture was stirred at 60° C. overnight and worked up as in Example 20. The crude product (1.97 g) was purified initially by HPLC (ethyl acetate-hexane; 1:3) to give 0.79 g of material that was further purified by flash chromatography over silica gel (ethyl acetate-hexane-dichloromethane; 3:37:60) to afford of 0.535 g of 4-[2-[4-(1,1-dimethylethyl)phenyl-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester as an oil.

reactant | sodium hydride | 0.224 g | [H-].[Na+]
reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.918 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | 2-chloro-1-[4-(1,1-dimethylethyl)phenyl]ethanone | 1 g | ClCC(=O)C1=CC=C(C=C1)C(C)(C)C | C12H15ClO
reactant | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 2-[4-(1,1-dimethylethyl)phenyl-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.79 g | COC(C(C1=C(C=CC=C1)OCC(=O)C1=CC=C(C=C1)C(C)(C)C)=O)=O | C21H22O5
